US08084448B2
A. 5-{2-Benzyloxy-4-[2-(2-hydroxyethyl)-benzyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of {2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic acid methyl ester (32 mg, 0.067 mmol) in THF (4 mL) is added LiBH4 (25 mg, 0.115 mmol) and the mixture is stirred at RT for 2 h. The mixture is cooled in an ice bath and is acidified with 1N HCl. The mixture is extracted with EtOAc and the organic phase is washed with 1N HCl and brine then is dried over magnesium sulfate. The solvent is removed under reduced pressure to give the title compound as a gum.

reactant | {2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetic acid methyl ester | 0.067 mmol, 32 mg | COC(CC1=C(C=CC=C1)CC1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)=O | C25H24N2O6S
reactant | LiBH4 | 0.115 mmol, 25 mg | [Li+].[BH4-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 5-{2-Benzyloxy-4-[2-(2-hydroxyethyl)-benzyl]-phenyl}-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=C(C=CC=C1)CCO)N1CC(NS1(=O)=O)=O | C24H24N2O5S
